US04631316
N-Dimethylthiocarbamylthio-N'-(3-methoxycarbonylamino-4-methylphenyl)urea (Compound No. 7)
Toluene-2,4-diisocyanate (17.9 g, 0.10 mole) and dibutyltin di-2-ethylhexanoate (0.20 g) were dissolved in toluene (100 ml). The solution was heated to 75° C., and then a solution of S-(di-methylthiocarbamyl)sulfenamide (13.6 g, 0.10 mole) in toluene (200 ml) was added slowly, with constant stirring, over a period of 45 minutes. When the addition was complete, the mixture was maintained at 70°-80° C. and stirred for an additional hour. Then anhydrous methanol (15 ml) was added. The slurry was stirred and maintained at 70°-80° C. for one more hour. The slurry was cooled to room temperature and filtered. The white powdery product was dried at 60° C. Yield 30.5 g, 89.2%, mp 180°-185° C. IR and NMR spectra were consistent with the assigned structure.

reactant | Toluene-2,4-diisocyanate | 0.10 mole, 17.9 g | CC1=C(C=C(C=C1)N=C=O)N=C=O | C9H6N2O2
reactant | dibutyltin di-2-ethylhexanoate | 0.20 g | CCCCC(CC)C(=O)O[Sn](CCCC)(CCCC)OC(=O)C(CC)CCCC
reactant | S-(di-methylthiocarbamyl)sulfenamide | 0.10 mole, 13.6 g | CN(C(=S)SN)C | C3H8N2S2
reactant | methanol | 15 ml | CO | CH4O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-Dimethylthiocarbamylthio-N'-(3-methoxycarbonylamino-4-methylphenyl)urea | CN(C(=S)SNC(=O)NC1=CC(=C(C=C1)C)NC(=O)OC)C | C13H18N4O3S2
